US05102890
Working as in Example 1, but starting with 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (6.9 g) in anhydrous dimethylformamide (70 cc), 3-diisopropylaminopropionic acid hydrochloride (4.4 g) and 1,8-diazabicyclo-[5.4.0]undec-7-ene (7.45 g), and after the residue obtained has been recrystallized successively, first in acetonitrile and then in ethanol, 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 3-diisopropylaminopropionate (2.7 g), m.p. 135° C., is obtained.

reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 6.9 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
reactant | 3-diisopropylaminopropionic acid hydrochloride | 4.4 g | Cl.C(C)(C)N(CCC(=O)O)C(C)C
reactant | 1,8-diazabicyclo-[5.4.0]undec-7-ene | 7.45 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dimethylformamide | 70 cc | CN(C=O)C | C3H7NO
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 3-diisopropylaminopropionate | 2.7 g | C(C)(C)N(CCC(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl)C(C)C | C25H27ClN4O3
